### PR TITLE
[Merged by Bors] - feat(Algebra/FreeAbelianGroup/Finsupp): rw a as sum over the elements in its support

### PR DESCRIPTION
**Pull request by Nicola9Falciola**
API for FreeAbelianGroup, a can rw as a sum over the elements in its support

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean [hunk 1]
```diff
@@ -151,4 +151,9 @@ theorem support_add (a b : FreeAbelianGroup X) : support (a + b) ⊆ a.support 
 theorem card_support_eq_zero {a : FreeAbelianGroup X} : a.support.card = 0 ↔ a = 0 := by
   simp
 
+theorem a_sum_support (a : FreeAbelianGroup X) :
```
Comment (plp127) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]: Let's call this something more descriptive.
```suggestion
theorem sum_support_coeff_smul_of (a : FreeAbelianGroup X) :
```

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean [hunk 2]
```diff
@@ -151,4 +151,9 @@ theorem support_add (a b : FreeAbelianGroup X) : support (a + b) ⊆ a.support 
...
+    a = ∑ x ∈ a.support, (coeff x a) • of x := by
+  conv_lhs => rw [← Finsupp.toFreeAbelianGroup_toFinsupp a]
+  simp [Finsupp.toFreeAbelianGroup, Finsupp.sum, FreeAbelianGroup.support,
+    FreeAbelianGroup.coeff, AddMonoidHom.flip_apply, smulAddHom_apply]
 end FreeAbelianGroup
```
Comment (plp127) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean:159]:
```suggestion

end FreeAbelianGroup
```

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean [hunk 3]
```diff
@@ -151,4 +151,10 @@ theorem support_add (a b : FreeAbelianGroup X) : support (a + b) ⊆ a.support 
 theorem card_support_eq_zero {a : FreeAbelianGroup X} : a.support.card = 0 ↔ a = 0 := by
   simp
 
+theorem sum_support_coeff_smul_of (a : FreeAbelianGroup X) :
+    a = ∑ x ∈ a.support, (coeff x a) • of x := by
```
Comment (themathqueen) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]: the name of the lemma suggests it should be the reverse of this (unless you want to keep it this way, then the name should probably be `eq_...`?
```suggestion
    ∑ x ∈ a.support, (coeff x a) • of x = a := by
```

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean [hunk 4]
```diff
@@ -151,4 +151,10 @@ theorem support_add (a b : FreeAbelianGroup X) : support (a + b) ⊆ a.support 
 theorem card_support_eq_zero {a : FreeAbelianGroup X} : a.support.card = 0 ↔ a = 0 := by
   simp
 
+theorem sum_support_coeff_smul_of (a : FreeAbelianGroup X) :
+    ∑ x ∈ a.support, (coeff x a) • of x = a := by
+  conv_lhs => rw [← Finsupp.toFreeAbelianGroup_toFinsupp a]
+  simp [Finsupp.toFreeAbelianGroup, Finsupp.sum, FreeAbelianGroup.support,
+    FreeAbelianGroup.coeff, AddMonoidHom.flip_apply, smulAddHom_apply]
```
Comment (themathqueen) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]:
```suggestion
  conv_rhs => rw [← toFreeAbelianGroup_toFinsupp a]
  simp [toFreeAbelianGroup, sum, support, coeff]
```

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean [hunk 5]
```diff
@@ -151,4 +151,9 @@ theorem support_add (a b : FreeAbelianGroup X) : support (a + b) ⊆ a.support 
 theorem card_support_eq_zero {a : FreeAbelianGroup X} : a.support.card = 0 ↔ a = 0 := by
   simp
 
+theorem sum_support_coeff_smul_of (a : FreeAbelianGroup X) :
+    ∑ x ∈ a.support, (coeff x a) • of x = a := by
+  conv_rhs => rw [← toFreeAbelianGroup_toFinsupp a]
```
Comment (themathqueen) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]: Actually maybe the reverse is better? My thoughts are: you can rewrite forwards instead of rewriting backwards (just `rw [lemma_name]` instead of `rw [<- lemma_name]`) and you can just write `rw [FreeAbelianGroup.eq_` and then you can immediately find this lemma, rather than needing to remember what exactly it rewrites to. If you agree:


```suggestion
theorem eq_sum_support_coeff_smul_of (a : FreeAbelianGroup X) :
    a = ∑ x ∈ a.support, coeff x a • of x := by
  conv_lhs => rw [← toFreeAbelianGroup_toFinsupp a]
```

File: Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean [hunk 6]
```diff
@@ -151,4 +151,9 @@ theorem support_add (a b : FreeAbelianGroup X) : support (a + b) ⊆ a.support 
 theorem card_support_eq_zero {a : FreeAbelianGroup X} : a.support.card = 0 ↔ a = 0 := by
   simp
 
+theorem eq_sum_support_coeff_smul_of (a : FreeAbelianGroup X) :
+    a = ∑ x ∈ a.support, coeff x a • of x := by
+  conv_lhs => rw [← toFreeAbelianGroup_toFinsupp a]
+  simp [toFreeAbelianGroup, sum, support, coeff]
```
Comment (themathqueen) [inline Mathlib/Algebra/FreeAbelianGroup/Finsupp.lean]: let's actually change the proof to this

```suggestion
  conv_lhs => rw [← toFreeAbelianGroup_toFinsupp a, ← sum_single a.toFinsupp]
  simp [sum, support, coeff]
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
